US04204071
To 12 g of 3-benzoylpropionic acid and 9.3 g of potassium carbonate in 100 ml of dimethylformamide (DMF), under nitrogen, is added m-phenoxybenzyl bromide (17.1 g). The reaction is stirred about 4 hr and then water added followed by extraction with ether. The combined extracts are washed with water, saturated sodium chloride, dried over calcium sulfate and rotoevaporated to give m-phenoxybenzyl 3-benzoylpropionate which can be further purified by prep. TLC eluting with 15% ethyl acetate/hexane.

reactant | 3-benzoylpropionic acid | 12 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | potassium carbonate | 9.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-phenoxybenzyl bromide | 17.1 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | m-phenoxybenzyl 3-benzoylpropionate | C(C1=CC=CC=C1)(=O)CCC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C23H20O4
